US06689792B2
1-(1H-Indol-4-yloxy)-3-[4-(1H-benzimidazole-4-yl) piperazin-1-yl]-propan-2-ol
The title compound is prepared from the reaction of 1-(indole-4-oxy)-2,3-epoxypropane (2.0 mmole) and 1-(1H-benzimidazole-4-yl)piperazine (2 mmole) according to the above procedures.

reactant | 1-(indole-4-oxy)-2,3-epoxypropane | 2.0 mmole | N1C=CC=2C(=CC=CC12)OCC1CO1 | C11H11NO2
reactant | 1-(1H-benzimidazole-4-yl)piperazine | 2 mmole | N1C=NC2=C1C=CC=C2N2CCNCC2 | C11H14N4
product | 1-(1H-Indol-4-yloxy)-3-[4-(1H-benzimidazole-4-yl) piperazin-1-yl]-propan-2-ol | N1C=CC2=C(C=CC=C12)OCC(CN1CCN(CC1)C1=CC=CC=2NC=NC21)O | C22H25N5O2
